US07947676B2
4-(2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperazin-2-one
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and piperazinone to give the title compound in 25% yield; NMR Spectrum: 2.19 (s, 3H), 2.44 (s, 3H), 2.71 (t, 2H), 2.90 (t, 2H), 3.12 (s, 2H), 3.14 (br s, 1H), 4.47 (t, 2H), 6.95 (d, 1H), 7.18-7.25 (m, 2H), 7.63 (br s, 1H), 7.64 (s, 1H), 7.74 (br s, 1H), 8.17 (s, 1H), 8.31 (s, 1H); Mass Spectrum: 475 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C20H19ClN6O2
reactant | piperazinone | N1C(CNCC1)=O | C4H8N2O
product | 4-(2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperazin-2-one | 25% yield | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCN2CC(NCC2)=O | C24H26N8O3
